US08202858B2
4-Cyclopropylaminomethyl-piperidine-1-carboxylic Acid Benzyl Ester
Cyclopropylamine (1.4 g, 24.4 mmol) and acetic acid (0.5 ml) were added to a solution of 4-formyl-piperidine-1-carboxylic acid benzyl ester from Example E33.2 (5.5 g, 22.2 mmol) in methanol (49.5 ml) and the mixture was stirred for 1 h at room temperature. Sodium cyanoborohydride (1.84 g, 28.9 mmol) was added and the mixture was stirred for 20 h at room temperature under an inert atmosphere. Solvents were removed in vacuo and azeotroped with toluene. The residue was dissolved in EtOAC, washed with saturated NaHCO3 then brine, dried and concentrated in vacuo. The residue was purified by flash chromatography on silica gel (eluant; 10% methanol:90% dichloromethane) to yield the title compound (3.0 g, 47%).

reactant | Cyclopropylamine | 24.4 mmol, 1.4 g | C1(CC1)N | C3H7N
reactant | acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
reactant | 4-formyl-piperidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C=O | C14H17NO3
reactant | Sodium cyanoborohydride | 28.9 mmol, 1.84 g | C(#N)[BH3-].[Na+]
solvent | methanol | 49.5 ml | CO | CH4O
product | 4-Cyclopropylaminomethyl-piperidine-1-carboxylic Acid Benzyl Ester | 3.0 g, 47% | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CNC1CC1 | C17H24N2O2
